US04304914
Ethyl 1,4,5,6-Tetrahydro-2-methyl-4-(2-trifluoromethylphenyl)-5-oxo-6,7-diphenyl-1,6-naphthyridine-3-carboxylate
This product is obtained using the procedure of Example 1 from diethyl 1,4-dihydro-4-(2-trifluoromethylphenyl)-2,6-dimethyl-3,5-pyridine dicarboxylate and N-phenylbenzimidoyl chloride (1.8 g, 68%).

reactant | diethyl 1,4-dihydro-4-(2-trifluoromethylphenyl)-2,6-dimethyl-3,5-pyridine dicarboxylate | FC(C1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OCC)C)C)C(=O)OCC)(F)F | C20H22F3NO4
reactant | N-phenylbenzimidoyl chloride | 1.8 g | C1(=CC=CC=C1)N=C(C1=CC=CC=C1)Cl | C13H10ClN
product | Ethyl 1,4,5,6-Tetrahydro-2-methyl-4-(2-trifluoromethylphenyl)-5-oxo-6,7-diphenyl-1,6-naphthyridine-3-carboxylate | CC=1NC=2C=C(N(C(C2C(C1C(=O)OCC)C1=C(C=CC=C1)C(F)(F)F)=O)C1=CC=CC=C1)C1=CC=CC=C1 | C31H25F3N2O3
